US05338856
B. Preparation of 5-Methylthio-3-(trifluoromethyl)isothiazole-4-carboxylic Acid
A 5.2 g (19.2 mmol) sample of ethyl 5-methylthio-3-(trifluoromethyl)isothiazole-4-carboxylate was combined with 1.39 g (21 mmol) of 85 percent potassium hydroxide and 25 mL of 95 percent ethanol and the mixture was heated on a steam bath for 45 min and then concentrated under reduced pressure to remove the volatiles. The residue was dissolved in water and acidified with concentrated hydrochloric acid. The white precipitate that formed was collected by filtration and dissolved in a mixture of acetone and ether. The resulting solution was dried over sodium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 3.75 g (80 percent of theory) of the title compound as a white solid melting at 260°-262° C.

reactant | ethyl 5-methylthio-3-(trifluoromethyl)isothiazole-4-carboxylate | CSC1=C(C(=NS1)C(F)(F)F)C(=O)OCC | C8H8F3NO2S2
reactant | potassium hydroxide | 21 mmol, 1.39 g | [OH-].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-Methylthio-3-(trifluoromethyl)isothiazole-4-carboxylic Acid | CSC1=C(C(=NS1)C(F)(F)F)C(=O)O | C6H4F3NO2S2
